US04762844
Preparation of 2-amino-4-methyl-5-fluoro-benzoic acid
525 g of 2-nitro-4-methyl-5-fluoro-benzoic acid are hydrogenated in 3 l of dioxane with 50 g of 5% strength Pd-C catalyst at 30°-40° under 20-30 bar. The catalyst is filtered off with suction and the solution is poured onto water. The crystals which have precipitated are filtered off with suction and dried. Yield: 357 g (80.1% of theory), melting point: 201°-202° C.

reactant | 2-nitro-4-methyl-5-fluoro-benzoic acid | 525 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1)C)F | C8H6FNO4
solvent | dioxane | 3 l | O1CCOCC1 | C4H8O2
catalyst | Pd-C | [Pd] | Pd
product | 2-amino-4-methyl-5-fluoro-benzoic acid | NC1=C(C(=O)O)C=C(C(=C1)C)F | C8H8FNO2
